US06004991
To a solution, cooled to 0° C., of melatonin (1 mmol) in trifluoroacetic acid (2 ml) is added dropwise borane (2 eq, 1M solution in THF) . The mixture is stirred for 30 min at 0° C. followed by dropwise addition of water (1.5 ml), and the medium is left stirring for 1 h at room temperature. The mixture is then brought to pH=10 using 2N potassium hydroxide solution and is then extracted with dichloromethane. The crude product is separated on a column of flash silica (25/75/5 acetone/dichloromethane/methanol) and 110 mg of N-[2-(5-methoxyindolin-3-yl)ethyl]acetamide are obtained, which product is then acetylated with acetic anhydride in pyridine to give N-[2-(1-acetyl-5-methoxyindolin-3-yl)ethyl]acetamide.

reactant | melatonin | 1 mmol | CC(=O)NCCC1=CNC2=C1C=C(C=C2)OC | C13H16N2O2
reactant | borane | 1M, 2 eq | B | BH3
reactant | potassium hydroxide | 2N | [OH-].[K+]
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | water | 1.5 ml | O | H2O
product | N-[2-(1-acetyl-5-methoxyindolin-3-yl)ethyl]acetamide | C(C)(=O)N1CC(C2=CC(=CC=C12)OC)CCNC(C)=O | C15H20N2O3
